US05366989
In 17 ml of ethanol was dissolved 1.7 g of ethyl 4-chloro-3-(2,4-dichlorophenyl)-2,2-difluoro-3-hydroxybutyrate. To the resulting solution was added 16.3 ml of a 3N ammonia-ethanol solution. The solution was subjected to reaction at 25°-30° C. for 24 hours. Then, the solvent was removed by distillation under reduced pressure. To the residue obtained were added 20 ml of ethyl acetate and 20 ml of water. The resulting mixture was adjusted to pH 1.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: chloroform) to obtain 0.88 g of 3-(2,4-dichlorophenyl)-3,4-epoxy-2,2-difluorobutanamide.

reactant | ethyl 4-chloro-3-(2,4-dichlorophenyl)-2,2-difluoro-3-hydroxybutyrate | 1.7 g | ClCC(C(C(=O)OCC)(F)F)(O)C1=C(C=C(C=C1)Cl)Cl | C12H11Cl3F2O3
reactant | ammonia ethanol | 3N | N.C(C)O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 17 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 3-(2,4-dichlorophenyl)-3,4-epoxy-2,2-difluorobutanamide | 0.88 g | ClC1=C(C=CC(=C1)Cl)C1(C(C(=O)N)(F)F)CO1 | C10H7Cl2F2NO2
